* /Users/codykremer/Claude_Main/life_management/career_planning/portfolio_projects/BLDC_Motor_Driver/02_Design/Spice_Analysis_and_Schematic/Schematics/BLDC_Driver.asc
* Generated by LTspice 26.0.2 for MacOS.
X§U1 N009 N010 N005 N007 MP_01 N008 N006 N004 N003 Vbatt 0 LT3757A ;§pnba Vc)FBX)SS)Rt))Sense)Gate)INTVcc)_SHDN/UVLO)Vin)GND
V1 Vbatt 0 3.3
M1 N001 N006 N008 N008 NMOS
L1 Vbatt N001 10µ Rser=1m
R1 N008 0 0.01
D1 N001 N002 D
C2 N002 0 47µ
I1 N002 0 1
R2 Vout N010 34k
R3 N010 0 16.2k
C3 N005 0 0.1µ
R4 N007 0 41.2k
R5 N003 0 22k
R6 Vbatt N003 49k
C4 N009 0 9.2n
C5 N004 0 10µ
.model D D
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 100m 0 0.1u startup
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\crossover\AppData\Local\LTspice\lib\sym\PowerProducts\LT3757A.asy)
.lib LT3757A.sub
.backanno
.end
